US07504429B2
benzyl 4-ethyl-2-formyl-5-(5-formyl-2-furyl)-1H-pyrrole-3-carboxylate
Following the procedures described in Example 5, replacing methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate with benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate and 4-fluorophenylboronic acid with 5-formyl-2-furylboronic acid, the title compound was obtained. Proton NMR for the product was consistent with the title compound. HRMS (ES) exact mass calculated for C20H18NO5 (M+H): 352.1180. Found 352.1183

reactant | benzyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1I)C=O)C(=O)OCC1=CC=CC=C1 | C15H14INO3
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 5-formyl-2-furylboronic acid | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
product | benzyl 4-ethyl-2-formyl-5-(5-formyl-2-furyl)-1H-pyrrole-3-carboxylate | C(C)C=1C(=C(NC1C=1OC(=CC1)C=O)C=O)C(=O)OCC1=CC=CC=C1 | C20H17NO5
